* block symbol definitions
.subckt bgr5 vin vout res1meg ext1meg R0 R1 R2 R3
M1 N007 N002 vin vin bsim3v3p l=1u w=20u
M2 N005 N001 vin vin bsim3v3p l=1u w=20u
M3 N003 N001 vin vin bsim3v3p l=1u w=20u
M4 ext1meg ext1meg N011 0 bsim3v3n l=1u w=20u
M5 N002 ext1meg N010 0 bsim3v3n l=1u w=20u
M6 N001 ext1meg N009 0 bsim3v3n l=1u w=20u
R1 vin res1meg 1Meg
R2 N013 N020 4k
R3 N020 N028 4k
R5 vout N011 1k
M7 N009 N009 N009 N020 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M8 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M9 N011 N011 N011 N014 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M10 N008 N002 vin vin bsim3v3p l=1u w=20u
M11 N006 N002 vin vin bsim3v3p l=1u w=20u
M12 N004 N002 vin vin bsim3v3p l=1u w=20u
M13 N001 N001 N003 vin bsim3v3p l=1u w=20u
M14 N001 N002 N004 vin bsim3v3p l=1u w=20u
M15 N002 N001 N005 vin bsim3v3p l=1u w=20u
M16 N002 N002 N006 vin bsim3v3p l=1u w=20u
M17 ext1meg N002 N007 vin bsim3v3p l=1u w=20u
M18 ext1meg N002 N008 vin bsim3v3p l=1u w=20u
M19 ext1meg ext1meg N011 0 bsim3v3n l=1u w=20u
M20 ext1meg ext1meg N011 0 bsim3v3n l=1u w=20u
M21 ext1meg ext1meg N011 0 bsim3v3n l=1u w=20u
M22 N002 ext1meg N010 0 bsim3v3n l=1u w=20u
M23 N002 ext1meg N010 0 bsim3v3n l=1u w=20u
M24 N002 ext1meg N010 0 bsim3v3n l=1u w=20u
M25 N001 ext1meg N009 0 bsim3v3n l=1u w=20u
M26 N001 ext1meg N009 0 bsim3v3n l=1u w=20u
M27 N001 ext1meg N009 0 bsim3v3n l=1u w=20u
M28 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M29 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M30 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M31 N015 N015 N015 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M32 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M33 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
M34 N010 N010 N010 N013 bsim3v3p l=1u w=20u ad=20e-12 as=20e-12
R6 0 N025 4k
R7 N021 N025 4k
R8 N021 N026 4k
R9 N022 N026 4k
R10 N022 N027 4k
R11 N023 N027 4k
R12 N023 N028 4k
R13 N020 N028 4k
R4 N014 N016 4k
R14 N016 N018 4k
R15 N018 N019 4k
R16 N019 N024 4k
R17 N012 N017 4k
R18 N017 R3 4k
R19 R3 R2 4k
R20 R2 R1 4k
R21 R1 0 4k
R22 N024 N012 4k
R23 0 R0 4k
D1 0 N002 D
D2 0 N001 D
.ends bgr5
